US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-(2,2-dimethylbutanoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1.0 g) was suspended in 1,2-dichloroethane (20 ml), and 2,2-dimethylbutanoyl chloride (538 mg) and pyridine (0.33 ml) were added thereto to the suspension, and the mixture was refluxed for 2 hours. Methylene chloride was added to the reaction mixture, washed with water and saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, crystals so precipitate were washed with ether, to thereby obtain 1.20 g of the title compound (Yield 89.8%).

reactant | 2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.0 g | O=C1C(CNC2=C(N1)C=C(C=C2)C)NC(=O)OC(C)(C)C | C15H21N3O3
reactant | 2,2-dimethylbutanoyl chloride | 538 mg | CC(C(=O)Cl)(CC)C | C6H11ClO
reactant | pyridine | 0.33 ml | N1=CC=CC=C1 | C5H5N
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 2-oxo-3-tert-butoxycarbonylamino-5-(2,2-dimethylbutanoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.20 g, Yield 89.8% | O=C1C(CN(C2=C(N1)C=C(C=C2)C)C(C(CC)(C)C)=O)NC(=O)OC(C)(C)C | C21H31N3O4
